US04000301
Preparation of 1-Methyl-3,5-diphenyl-4-n-propoxypyrazole
Sodium hydride (57%, 0.92 g, 0.022 mole) is added slowly to a suspension of 1-methyl-3,5-diphenyl-4-pyrazolol (5 g, 0.02 mole) in anhydrous ether (100 ml). An off-white precipitate forms. After stirring for 45 minutes, the solid is removed by filtration, added to dry DMF (30 ml) and treated with 1-iodopropane (5 ml, 0.05 mole). The reaction mixture is stirred, heated at 60° C for 14 hours and then poured into ice water (600 ml). After standing for 24 hours in the refrigerator, a tacky yellow solid is formed. Recrystallization from hexane at -20° C affords an off-white solid, melting point 56°-57° C.

reactant | Sodium hydride | 0.022 mole, 0.92 g | [H-].[Na+]
reactant | 1-methyl-3,5-diphenyl-4-pyrazolol | 0.02 mole, 5 g | CN1N=C(C(=C1C1=CC=CC=C1)O)C1=CC=CC=C1 | C16H14N2O
reactant | 1-iodopropane | 0.05 mole, 5 ml | ICCC | C3H7I
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Methyl-3,5-diphenyl-4-n-propoxypyrazole | CN1N=C(C(=C1C1=CC=CC=C1)OCCC)C1=CC=CC=C1 | C19H20N2O
